US05747517
Preparation of 5-[[3-[4-(t-butyl)phenoxy]phenyl]methylene]-3-(2-carboxyethyl)-2-thioxo-4-thiazolidinone
Under nitrogen atmosphere in a round bottom flask 4-[4-(t-butyl)phenoxy]benzaldehyde (2.0 g, 7.8 mmol) was dissolved in 40 ml of acetic acid with stirring. To this solution was added sodium acetate (2.56 g, 31.2 mmol) followed by the addition of N-(2-carboxyethyl)rhodanine (1.79 g, 8.7 mmol). The reaction mixture was heated to reflux. The progress of the reaction was monitored by thin layer chromatography. The reaction was allowed to reflux overnight.

reactant | 4-[4-(t-butyl)phenoxy]benzaldehyde | 7.8 mmol, 2.0 g | C(C)(C)(C)C1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C17H18O2
reactant | sodium acetate | 31.2 mmol, 2.56 g | C(C)(=O)[O-].[Na+]
reactant | N-(2-carboxyethyl)rhodanine | 8.7 mmol, 1.79 g | C(=O)(O)CCN1C(SCC1=O)=S | C6H7NO3S2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 5-[[3-[4-(t-butyl)phenoxy]phenyl]methylene]-3-(2-carboxyethyl)-2-thioxo-4-thiazolidinone | C(C)(C)(C)C1=CC=C(OC=2C=C(C=CC2)C=C2C(N(C(S2)=S)CCC(=O)O)=O)C=C1 | C23H23NO4S2
